US09403801B2
Step 2) tert-butyl 8-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate
To a suspension of tert-butyl 8-((2-chloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate (0.30 g, 0.79 mmol) in n-BuOH (4.0 mL) were added 1-methyl-1H-pyrazol-4-amine hydrochloride (0.21 g, 1.58 mmol) and DIPEA (0.41 g, 3.15 mmol). The mixture was stirred in a sealed tube at 150° C. overnight. The mixture was concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=50/1) to give the title compound as a yellow solid (0.22 g, 63%).

reactant | tert-butyl 8-((2-chloropyrimidin-4-yl)(methyl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 0.79 mmol, 0.30 g | ClC1=NC=CC(=N1)N(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C | C19H29ClN4O2
reactant | 1-methyl-1H-pyrazol-4-amine hydrochloride | 1.58 mmol, 0.21 g | Cl.CN1N=CC(=C1)N
reactant | DIPEA | 3.15 mmol, 0.41 g | CCN(C(C)C)C(C)C | C8H19N
solvent | n-BuOH | 4.0 mL | CCCCO | C4H10O
product | tert-butyl 8-(methyl(2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decane-2-carboxylate | 0.22 g, 63% | CN(C1CCC2(CCN(C2)C(=O)OC(C)(C)C)CC1)C1=NC(=NC=C1)NC=1C=NN(C1)C | C23H35N7O2
